US04604397
The starting material is prepared as follows: A mixture of 2.57 g of 3-bromo-6-methoxy-4-chromanone and 3.3 g of the ethylene ketal of 1-(propylamino)-2-propanone in 500 ml of toluene is refluxed for 17 hours. The resulting product is dissolved in 20 ml of nitromethane and added to 50 ml of 85% polyphosphoric acid. After 48 hours at room temperature the reaction is poured onto ice to afford 9-methoxy-4-propyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridin-2-one.

reactant | 3-bromo-6-methoxy-4-chromanone | 2.57 g | BrC1COC2=CC=C(C=C2C1=O)OC | C10H9BrO3
reactant | 1-(propylamino)-2-propanone | C(CC)NCC(C)=O | C6H13NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | nitromethane | 20 ml | [N+](=O)([O-])C | CH3NO2
product | 9-methoxy-4-propyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridin-2-one | COC=1C=CC2=C(C1)C=1C(N(CC(C1)=O)CCC)CO2 | C16H19NO3
